US07615549B2
(d) 3-[2-methyl-4-(4-nitro-2-oxo-pyrrolidin-1-yl)-phenyl]-[1,3]oxazepan-2-one
1.52 g (6.89 mmol) 3-(4-amino-2-methyl-phenyl)-[1,3]oxazepan-2-one and 1.0 g (6.89 mmol) methyl 3-nitro-but-3-enoate (prepared analogously to M. Mühlstädt, B. Schulze J. Prakt. Chem. 1971, 313(4), 745-753) are melted together at 130° C. for 50 minutes. The mixture is allowed to cool and dissolved in DMF. The solution is acidified with TFA and purified by chromatography using reversed phase HPLC.

reactant | 3-(4-amino-2-methyl-phenyl)-[1,3]oxazepan-2-one | 6.89 mmol, 1.52 g | NC1=CC(=C(C=C1)N1C(OCCCC1)=O)C | C12H16N2O2
reactant | methyl 3-nitro-but-3-enoate | 6.89 mmol, 1.0 g | [N+](=O)([O-])C(CC(=O)OC)=C | C5H7NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[2-methyl-4-(4-nitro-2-oxo-pyrrolidin-1-yl)-phenyl]-[1,3]oxazepan-2-one | CC1=C(C=CC(=C1)N1C(CC(C1)[N+](=O)[O-])=O)N1C(OCCCC1)=O | C16H19N3O5
